US07087601B2
Utilizing the general procedure outlined in the synthesis of 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]propanenitrile, 4-(1,3-benzoxazol-2-yl)-2-methoxybenzonitrile (250 mg, 0.95 mmol) was reacted with 1,3-Dibromopropane (120 μL, 1.1 mmol) to afford the desired 1-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]cyclobutanecarbonitrile as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 7.89–7.87 (m, 3H), 7.62–7.55 (m, 1H) 7.39–7.36 (m, 2H), 7.32–7.26 (m, 1H), 4.05 (s, 3H), 2.90–2.83 (m, 2H), 2.67–2.47 (m, 4H). MS (ESI) 305 (M+H)+.

reactant | 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]propanenitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C(C#N)C)OC | C17H14N2O2
reactant | 4-(1,3-benzoxazol-2-yl)-2-methoxybenzonitrile | 0.95 mmol, 250 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C#N)C=C2)OC | C15H10N2O2
reactant | 1,3-Dibromopropane | 1.1 mmol, 120 μL | BrCCCBr | C3H6Br2
product | 1-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]cyclobutanecarbonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2(CCC2)C#N)OC | C19H16N2O2
